Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
" very depressed always crying everywhere at work the past 3
months have been worse..lately started drinking more I can't
sleep..feel like I don't belong in this world..lots of problems
with my partner"
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
The patient is a ___ yo female originally from ___ 
___ who reports that she has ahd a hx of depression since 
her late teens, untreated who was brought o the ED by a 
co-worker for concerns for her safety.The patient reports she 
has been been feeling depressed for the past 3 months but has 
recently been feeling suicidal and is a social drnker but more 
recently she has been drinking more and yesterday she drnk 12 
beers.The precpitant is that she and her female partner of ___ 
years have been having relationship problems and the patient 
reports that her partner has been unfaithful to her which her 
partner denies.She and her partner live together but are 
"separated" but continue to live in the same house along with 
the patient's ___ year dtr. The patient said that she has decided 
to end the relationhip  b/o the infidelity and is deeply sad and 
hurt by this as she still loves her.She said "I feel like I 
don't belong in this world I can't be alone if I'm alone in the 
house I feel really bad and I can't stop crying.I stay away for 
as along as I can I go to the mall..I go out with friends." The 
patient said that last night she drank 12 beers and was upset as 
her partner was not home and was visiting with friends in 
___ intoxicated she attempted to drive from ___ 
where she lives to ___ but said she never made it to ___ as 
her partner called and said she was on her way home but by then 
she had driven several miles. She said " I get out of control 
and I do things that make her angry and this morning she yelled 
at me and said stop crying." The patient who is a ___ 
___ for a large apartment complex did not show up for work 
today and her supervisor came to her house and the patient was 
still in bed." The patient said her partner wants to remain in 
the relationhip as does the patient but she feels deeply hurt 
and feels she needs to end it.She said "I know something 
happened it doesn't allow me to be ok I'm always thinking I 
don't want to live I don't deserve anything..I feel ugly and 
worthless when I think of what my
partner did to me."
 
Past Medical History:
Past psychiatric history: Pt reports overdosing on 30 tabs of
tylenol at age ___ following argument w/ mother. Was taken to
hospital but received only medical treatment. Denies h/o
psychiatric treatment/hospitalization. 

Past medical history: Denies PMH.

Medications: Denies medications or OTC.

Allergies: ASA

 
Social History:
The patient was born in ___ and has ___ younger
brothers. Her father was killed in ___ when the patient was
___ years, she does not know the details of his death.He never
lived with the family but would visit occassionally.She report
h/o sexual abuse at age ___ by an older man while visiting her
father's family.She, her mother and 2 brothers moved to ___
when she was ___ and she has a ___ year old daughter from a
relationship with a man she lived with but never married.
She graduated from high school, attended ___. for ___ 
years
and studied early childhood eduation.She works ___  as an
Assistant ___ in a large apartment complex and she
lives in one of the apartments in the ___.
Her mother and bothers live in ___ and the patient and 
her
partner and patient's ___ year old dtr live ___ in ___
too.

Substance use history: Drinks socially (~4 beers/night), but has
recently been drinking more. Had 12 beers yesterday. Denies h/o
withdrawal symptoms. Denies illicits or tobacco.
 
Family History:
Family psychiatric history: Mother and maternal grandmother w/
depression. 
 
Physical Exam:
*VS:  BP: 120/62  HR: 73  temp: 98.0 O2 sat: 100  height: 5'7" 
weight: 178 lbs

PE: HEENT: No scleral icteris. No oral lesions.
    Chest: Heart nl rate and rhythm
    Lungs: CTAB
    Abdomen:  Profuse tenderness on palpation (no rebound or
guarding)
  Neurological:
    *station and gait: nl
    *tone and strength: ___ b/l
    cranial nerves: Intact
    abnormal movements: None
 
Pertinent Results:
___ 11:05AM   GLUCOSE-87 UREA N-10 CREAT-0.6 SODIUM-142 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-27 ANION GAP-13
___ 11:05AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 11:05AM URINE  UCG-NEGATIVE
___ 11:05AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 11:05AM   WBC-9.1 RBC-4.50 HGB-10.9* HCT-35.4* MCV-79*# 
MCH-24.2* MCHC-30.7* RDW-16.8*
___ 11:05AM   NEUTS-67.1 ___ MONOS-4.2 EOS-1.6 
BASOS-0.8
___ 11:05AM   PLT COUNT-353
___ 11:05AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:05AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:05AM URINE  RBC-9* WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-1
 
Brief Hospital Course:
Pt arrived in ED on ___ and was admitted and seen by primary 
team on ___. Initially patient was tearful at times and 
minimized the severity of her depression. From admission, the 
patient was interested in individual outpatient therapy but was 
uninterested in starting medication. On ___ AM, the patient 
became angry regarding continued hospitalization, stated that 
she would not attend any groups, and that she did not want to 
her mother, daughter, or brothers about her hospitalization, 
However, as the day progressed Ms. ___ realized that her 
reaction to her hospitalization was inappropriate and unhelpful. 
She stated that she now realized that her situation was not the 
fault of her treatment team and appeared to take more 
responsibility for her actions. She attended all available 
groups on ___ and reported to find them helpful. The patient 
also decided to stop socially isolating herself and informed her 
mother about her hospitalization, who subsequently came to visit 
on the same day. She remained actively interested in outpatient 
psychotherapy throughout hospitalization. At no point throughout 
hospital course did patient express SI. Ms. ___ also 
presented no behavioral concerns throughout her course. Pt's 
partner and 2 of her friends were contacted for collateral 
information on ___ and all expressed no concerns regarding 
her safety in the event of a discharge. At this time, the 
patient and her partner appear to be working out their 
relationship difficulties and both have expressed interest in 
couples therapy pending the opinion of Ms. ___ new 
outpatient therapist. Given the resolving nature of the 
patient's exacerbating factor (relationship troubles), the 
patients increasing ability to take responsibility for her 
actions, decreased social isolation, lack of SI, and willingness 
to engage in outpatient therapy, Ms. ___ is no longer a 
danger to herself or others and can be discharged safely to home 
with outpatient therapy follow-up.
 
Medications on Admission:
None
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Depression NOS, Alcohol Abuse
Axis II: Deferred
Axis III: None
Axis IV: Difficulties with relationship with same-sex partner
___ V: 48

 
___ Condition:
Appearance: Well-appearing woman with good hygiene,
appearing stated age and resting comfortably on hospital bed.
Motor: Normal
Attitude: Cooperative.
Mood: 'OK. Better.'
Affect: Mostly euthymic, tearful at times, mostly congruent with 
mood. Smiles/laughs when socially appropriate.
Speech: Nl rate/vol/prosody.
Thought process: Linear, mostly logical.
Thought content: Denies active SI/HI. No current plan.
Denies AH/VH.
Insight/Judgment: Fair/Fair - pt appears to be taking 
responsibility for her actions and their consequences and 
understands need for outpatient psychiatric follow-up. She is 
uninterested in medicaiton at this time, but states active 
interest in psychotherapy.
Cognition: A+Ox3

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
 
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___